US06191164B1
c) 6-Carboxy-2,2-dimethyl-4-chromanone Oxime
14.9 g of 6-carboxy-2,2-dimethyl-3-chromanone are dissolved in 100 ml of ethanol and 100 ml of pyridine, and after addition of 5.16 g of hydroxylamine hydrochloride the mixture is heated at 80° C. with stirring for 6 hours. The solvent is distilled off on a rotary evaporator. The residue is treated with water and adjusted to pH<1 using conc. hydrochloric acid, and the colorless crystals are filtered off.

reactant | 6-carboxy-2,2-dimethyl-3-chromanone | 14.9 g | C(=O)(O)C=1C=C2CC(C(OC2=CC1)(C)C)=O | C12H12O4
reactant | hydroxylamine hydrochloride | 5.16 g | Cl.NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-Carboxy-2,2-dimethyl-4-chromanone Oxime | C(=O)(O)C=1C=C2C(CC(OC2=CC1)(C)C)=NO | C12H13NO4
